US07897609B2
A mixture of N-{7-bromo-4-[(2-hydroxy-2-methylpropyl)amino][1,5]naphthyridin-3-yl}-3-methoxypropionamide hydrochloride (60.00 g, 138 mmol), potassium carbonate (60 g), water (300 mL), and ethanol (900 mL) was heated at reflux for 16 hours and then concentrated under reduced pressure. The precipitated solid was isolated by filtration, washed sequentially with water and methanol, and dried to provide a brown solid. This material was dissolved in a 3/1 mixture of chloroform/methanol and decolorized with activated charcoal to provide 38.5 g of 1-[7-bromo-2-(2-methoxyethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol as a white solid, mp 125° C. Anal. calcd for C16H19BrN4O2: % C, 50.67; % H, 5.05; % N, 14.77; Found: % C, 50.86; % H 4.94; % N, 15.01.

reactant | N-{7-bromo-4-[(2-hydroxy-2-methylpropyl)amino][1,5]naphthyridin-3-yl}-3-methoxypropionamide hydrochloride | 138 mmol, 60.00 g | Cl.BrC1=CN=C2C(=C(C=NC2=C1)NC(CCOC)=O)NCC(C)(C)O
reactant | potassium carbonate | 60 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 mL | O | H2O
reactant | charcoal | C | CH4
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | ethanol | 900 mL | C(C)O | C2H6O
product | 1-[7-bromo-2-(2-methoxyethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]-2-methylpropan-2-ol | 38.5 g | BrC=1C=NC=2C3=C(C=NC2C1)N=C(N3CC(C)(O)C)CCOC | C16H19BrN4O2
